US03946008
1,2,3,4-Tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one
A mixture of 18.8 g (0.2 m) of phenol and 20.7 g (0.1 m) of 3-carbethoxy-4-piperidone HCl was cooled in an ice bath and treated with 75 cc of 73% v/v H2SO4 in 1/2 hr. with stirring and protection from moisture. After stirring 4 days at room temperature the reaction was chilled and treated with an additional 10 g (0.106 m) of phenol. After 5 days a second 10 g portion of phenol was added. After stirring 6 days the reaction was treated with 100 g of ice and conc. NH4OH to pH 8-9. The resultant gum was stirred with 100 cc CHCl3 for 1/2 hr. and was filtered. The filtrate was evaporated and the resultant gum was triturated with pet ether followed by ethyl ether. The resultant solid was crystallized from 100 cc 3N HCl affording 2.3 g (10%) of product mp. 330°- 5° C.

reactant | phenol | 18.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3-carbethoxy-4-piperidone HCl | 20.7 g | Cl.C(=O)(OCC)C1CNCCC1=O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | phenol | 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | NH4OH | [NH4+].[OH-]
solvent | CHCl3 | 100 cc | C(Cl)(Cl)Cl | CHCl3
product | 1,2,3,4-Tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | C1C2=C(CNC1)C(OC1=C2C=CC=C1)=O | C12H11NO2
